US05116833
4-(Methylthio)benzylazide
A cold (5° C.) solution of 4-methylthiobenzyl alcohol (3.0 g, 19.45 mmol) in CH2Cl2 (60 mL) was treated with triethylamine (2.17 g, 21.4 mmol) and methanesulfonyl chloride (2.45 g, 21.4 mmol). The mixture was stirred for 1 h, then diluted with Et2O and filtered. The filtrate was evaporated to dryness, redissolved in CH3CN and treated with NaN3 (1.52 g, 23.34 mmol) and (Bu)4NCl (0.150 g). The mixture was stirred at room temperature for 18 h, then diluted with ethyl acetate and washed successively with water, dilute NaHCO3 and brine, dried (MgSO4), and finally evaporated. The crude compound was purified by silica gel chromatography (eluted with petroleum ether and CH2Cl2) to afford 2.79 g (80.0%) of the title product as a mobile oil.

reactant | 4-methylthiobenzyl alcohol | 19.45 mmol, 3.0 g | CSC1=CC=C(CO)C=C1 | C8H10OS
reactant | triethylamine | 21.4 mmol, 2.17 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 21.4 mmol, 2.45 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaN3 | 23.34 mmol, 1.52 g | [N-]=[N+]=[N-].[Na+]
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | CCOCC | C4H10O
catalyst | (Bu)4NCl | 0.150 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[Cl-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(Methylthio)benzylazide | 2.79 g, 80.0% | CSC1=CC=C(CN=[N+]=[N-])C=C1 | C8H9N3S
